US03961062
b. 4-Cyclohexyl-2H-isoquinoline-1-one
50 g of 4-cyclohexyl-3,4-dihydro-2H-isoquinoline-1-one and 20 l g of methanol-wet 30% Pd/C were heated while to 220° C in a stream of argon. Thin-layer chromatographic analysis revealed that the reaction was practically completed after 75 minutes. The product was dissolved in chloroform, the catalyst was separated and the organic phase was evaporated. After recrystallization from acetone, colorless crystals were obtained. M.p. 111° to 112° C

reactant | 4-cyclohexyl-3,4-dihydro-2H-isoquinoline-1-one | 50 g | C1(CCCCC1)C1CNC(C2=CC=CC=C12)=O | C15H19NO
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Cyclohexyl-2H-isoquinoline-1-one | C1(CCCCC1)C1=CNC(C2=CC=CC=C12)=O | C15H17NO
